US07211545B2
A mixture of 0.63 g of 5,7-dichloro-6-(2,4,6-trifluorophenyl)-imidazo[1,2-a]pyrimidine, 0.79 g of 2-methylpiperidine and 2 ml of chloroform was heated at 80° C. for one hour. The reaction mixture was allowed to cool and subjected to silica gel column chromatography to give 0.30 g of 5-(2-methylpiperidin-1-yl)-6-(2,4,6-trifluorophenyl)-7-chloroimidazo[1,2-a]pyrimidine.

reactant | 5,7-dichloro-6-(2,4,6-trifluorophenyl)-imidazo[1,2-a]pyrimidine | 0.63 g | ClC1=C(C(=NC=2N1C=CN2)Cl)C2=C(C=C(C=C2F)F)F | C12H4Cl2F3N3
reactant | 2-methylpiperidine | 0.79 g | CC1NCCCC1 | C6H13N
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2-methylpiperidin-1-yl)-6-(2,4,6-trifluorophenyl)-7-chloroimidazo[1,2-a]pyrimidine | 0.30 g | CC1N(CCCC1)C1=C(C(=NC=2N1C=CN2)Cl)C2=C(C=C(C=C2F)F)F | C18H16ClF3N4
